US07148226B2
7-({6-Cyclopentyl-4-hydroxy-6-[2-(4-methoxyphenyl)ethyl]-2-oxo-5,6-dihydro-2H-pyran-3-yl}methyl)-3-methyl-5H-[1,3]thiazolo[3,2-a]pyrimidin-5-one
The title compound was prepared as described in Example B(53), using 7-(chloromethyl)-3-methyl-5H-[1,3]thiazolo[3,2-a]pyrimidin-5-one (prepared according to a reported procedure: Doria, G.; Passarotti, C.; Sala, R.; Magrini, R.; Sberze, P.; Tibolla, M.; Cesarani, R.; Arcari, G.; Castello, R.; Toti, D. Farmaco Ed. Sci. 1985, 40, 885) in place of 5-(chloromethyl)-1,3-dimethyl-1H-1,2,4-triazole, and using 6-cyclopentyl-6-[2-(4-methoxyphenyl)ethyl]dihydro-2H-pyran-2,4(3H)-dione in place of 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione. Yield: 17%.

reactant | 7-(chloromethyl)-3-methyl-5H-[1,3]thiazolo[3,2-a]pyrimidin-5-one | ClCC=1N=C2N(C(C1)=O)C(=CS2)C | C8H7ClN2OS
reactant | 5-(chloromethyl)-1,3-dimethyl-1H-1,2,4-triazole | ClCC1=NC(=NN1C)C | C5H8ClN3
reactant | 6-cyclopentyl-6-[2-(4-methoxyphenyl)ethyl]dihydro-2H-pyran-2,4(3H)-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC=C(C=C1)OC | C19H24O4
product | 7-({6-Cyclopentyl-4-hydroxy-6-[2-(4-methoxyphenyl)ethyl]-2-oxo-5,6-dihydro-2H-pyran-3-yl}methyl)-3-methyl-5H-[1,3]thiazolo[3,2-a]pyrimidin-5-one | Yield: 17% | C1(CCCC1)C1(CC(=C(C(O1)=O)CC=1N=C2N(C(C1)=O)C(=CS2)C)O)CCC2=CC=C(C=C2)OC | C27H30N2O5S
